US05565341
The enzymic activity is determined according to the following procedure: 1.72 g of glutathione, and 34.2 mg of Na2EDTA are dissolved in a 114 mM potassium phosphate buffer solution (pH 7.0) to prepare 100 ml of a solution. A mixture of 700 μl of the solution, 700 μl of a thermally dissolved 5.72% starch solution, 100 μl of a 20 mM NADP+ solution, 100 μl of a 26 mM magnesium chloride solution, 100 μl of a 1.34 mM glucose 1,6-diphosphate solution, 100 μl of a 31 unit/ml phosphoglucomutase solution, 100 μl of a 35 unit/ml glucose 6-phosphate dehydrogenase solution, and 100 μl of a sample enzyme solution is incubated at 30° C. and the quantity of produced NADPH is monitored consecutively by means of absorption spectrophotometry at 340 nm. One unit refers to the amount of enzyme which is capable of producing 1 μ mol of NADPH for 1 min. under the conditions.

reactant | glutathione | 1.72 g | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
reactant | Na2EDTA | 34.2 mg | C(CN(CC(=O)O)CC(=O)[O-])N(CC(=O)O)CC(=O)[O-].[Na+].[Na+]
reactant | NADP+ | 20 mM | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | magnesium chloride | 26 mM | [Cl-].[Mg+2].[Cl-]
reactant | glucose 1,6-diphosphate | 1.34 mM | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OP(=O)(O)O)O)O)O)OP(=O)(O)O | C6H14O12P2
reactant | glucose 6-phosphate | P(=O)(O)(O)OC[C@H]([C@H]([C@@H]([C@H](C=O)O)O)O)O | C6H13O9P
solvent | potassium phosphate | 114 mM, pH 7.0 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | NADPH | 1 μ mol | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
